data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
598,655,[CH3:14][N:15]=[NH+:16][N-:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[CH:1]1=[CH:2][CH:3]2[O:4][CH:5]1[CH:6]=[C:7]2[c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1>>[CH:1]12[CH:2]([CH:3]3[O:4][CH:5]1[CH:6]=[C:7]3[c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1)[N:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[NH:16][N:15]2[CH3:14],water,298.15,27.36428894866908,-20.89734833363258
1020,1113,[CH3:11][O:12][C:13](=[O:14])[c-:15]1[nH+:16][c:17]([C:18]#[N:19])[o:20][c:21]1=[O:22].[CH3:1][C:2](=[O:3])/[C:4]([Cl:5])=[C:6](\[Cl:7])[C:8]([CH3:9])=[O:10]>>[CH3:1][C:2](=[O:3])[C@@:4]1([Cl:5])[C@:6]([Cl:7])([C:8]([CH3:9])=[O:10])[C:15]2([C:13]([O:12][CH3:11])=[O:14])[NH:16][C:17]1([C:18]#[N:19])[O:20][C:21]2=[O:22],water,298.15,27.00527316139437,6.297923613326643
4462,5094,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]([c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1)=[N+:18]([CH3:19])[CH-:20][C:21]([CH3:22])=[O:23]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[CH:20]([C:21]([CH3:22])=[O:23])[N:18]([CH3:19])[C:11]1([C:9]([NH:8][CH3:7])=[O:10])[c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1,water,298.15,29.741167422373792,-13.946696384250204
121,137,[CH3:4][NH:5][C:6](=[O:7])[c:8]1[nH+:9][c-:10]([C:11](=[O:12])[NH:13][CH3:14])[c:15](=[O:16])[o:17]1.[CH:1]#[C:2][CH3:3]>>[CH:1]1=[C:2]([CH3:3])[C:8]2([C:6]([NH:5][CH3:4])=[O:7])[NH:9][C:10]1([C:11](=[O:12])[NH:13][CH3:14])[C:15](=[O:16])[O:17]2,water,298.15,28.62224204032439,-11.246316859725043
911,985,[CH3:12][O:13][C:14](=[O:15])[C-:16]([C:17]#[N:18])[O+:19]=[C:20]([C:21]#[N:22])[C:23]#[N:24].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[CH:6][CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[CH:6]([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:20]([C:21]#[N:22])([C:23]#[N:24])[O:19][C:16]2([C:14]([O:13][CH3:12])=[O:15])[C:17]#[N:18],water,298.15,3.620682311270451,-47.95832086079968
1586,1755,[CH3:13][NH:14][C:15](=[O:16])[c:17]1[nH+:18][c-:19](-[c:20]2[cH:21][cH:22][cH:23][cH:24][cH:25]2)[c:26](=[O:27])[o:28]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:17]1([C:15]([NH:14][CH3:13])=[O:16])[NH:18][C:19]3([c:20]2[cH:21][cH:22][cH:23][cH:24][cH:25]2)[C:26](=[O:27])[O:28]1,water,298.15,15.538137338047529,-20.52192021098808
3801,4351,[CH2:10]=[N+:11]([CH3:12])[C-:13]([CH3:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[CH2:10][N:11]([CH3:12])[C:13]1([CH3:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,17.733784067444404,-29.208056623245817
3207,3621,[CH3:10][c-:11]1[o+:12][n:13][o:14][c:15]1=[O:16].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:11]2([CH3:10])[O:12][N:13]1[O:14][C:15]2=[O:16],water,298.15,16.609509907491677,-16.83181872650362
1946,2156,[CH3:13][NH:14][C:15](=[O:16])[C:17](=[NH+:18][C-:19]([CH3:20])[C:21]#[N:22])[C:23](=[O:24])[O:25][CH3:26].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:17]([C:15]([NH:14][CH3:13])=[O:16])([C:23](=[O:24])[O:25][CH3:26])[NH:18][C:19]3([CH3:20])[C:21]#[N:22],water,298.15,13.637249639477108,-35.640999210073545
4416,5048,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][C:10](=[O:11])[C:12]([C:13]#[N:14])=[N+:15]([CH3:16])[C-:17]([CH3:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:17]([CH3:18])([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[N:15]([CH3:16])[C:12]2([C:10]([CH3:9])=[O:11])[C:13]#[N:14],water,298.15,35.54419832944553,-2.570666780368392
3720,4248,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][C:8](=[O:9])[C-:10]([C:11]([CH3:12])=[O:13])[N+:14]([CH3:15])=[C:16]([CH3:17])[C:18]#[N:19]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:10]([C:8]([CH3:7])=[O:9])([C:11]([CH3:12])=[O:13])[N:14]([CH3:15])[C:16]1([CH3:17])[C:18]#[N:19],water,298.15,32.43431361624661,-5.405075153822981
2227,2469,[CH3:14][O:15][C:16](=[O:17])[C-:18]([CH3:19])[O+:20]=[C:21]([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1.[CH:1]1=[C:2]([c:3]2[cH:4][cH:5][cH:6][cH:7][cH:8]2)[CH:9]2[CH2:10][CH2:11][CH:12]1[CH2:13]2>>[CH:1]12[C:2]([c:3]3[cH:4][cH:5][cH:6][cH:7][cH:8]3)([CH:9]3[CH2:10][CH2:11][CH:12]1[CH2:13]3)[C:18]([C:16]([O:15][CH3:14])=[O:17])([CH3:19])[O:20][C:21]2([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1,water,298.15,27.057046107007235,-4.628850196123646
